US07365065B2
Sodium hydride (60% dispersion, 150 mg, 3.8 mmol) was added to a solution of 4-chloro-N-methylbenzenesulfonamide (640 mg, 3.1 mmol) in DMF (12 ml) while cooling in an ice/water bath. After stirring for 15 min the mixture was allowed to warm to room temperature and stirred for a further 30 min. Methyl 4-bromomethyl-3-chlorothiophene-2-carboxylate (1.08 g, 4.0 mmol) was added and the mixture was stirred for 18 h. 0.3N Potassium hydrogen sulphate solution was added and the mixture evaporated. The mixture was extracted with ethyl acetate and the organic extract was washed with brine, dried and reduced. Chromatography (25% EtOAc/75% 60-80 pet ether) yielded methyl 3-chloro(N-(4-chlorobenzenesulphonyl)-N-methylaminomethyl)thiophene-2-carboxylate (1.25 g, 79%) as a white solid.

reactant | Sodium hydride | 3.8 mmol, 150 mg | [H-].[Na+]
reactant | 4-chloro-N-methylbenzenesulfonamide | 3.1 mmol, 640 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC | C7H8ClNO2S
reactant | Methyl 4-bromomethyl-3-chlorothiophene-2-carboxylate | 4.0 mmol, 1.08 g | BrCC=1C(=C(SC1)C(=O)OC)Cl | C7H6BrClO2S
reactant | Potassium hydrogen sulphate | 0.3N | S(=O)(=O)(O)[O-].[K+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | methyl 3-chloro(N-(4-chlorobenzenesulphonyl)-N-methylaminomethyl)thiophene-2-carboxylate | 1.25 g, 79% | ClC1=C(SC=C1CN(C)S(=O)(=O)C1=CC=C(C=C1)Cl)C(=O)OC | C14H13Cl2NO4S2
